US09382228B2
Cyclohexylacetyl chloride (1 mL, 6.52 mmol) was added to solution of NH4OH (˜15M, 5 mL, ˜75 mmol) in EtOAc (5 mL) and satd. NaHCO3 (5 mL) and stirred at RT for 20 minutes. The layers were separated, the aqueous layer extracted with EtOAc (2×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford 2-cyclohexylacetamide (481 mg, 52%) as a white solid.

reactant | Cyclohexylacetyl chloride | 6.52 mmol, 1 mL | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | NH4OH | ˜75 mmol, ˜15M, 5 mL | [NH4+].[OH-]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 2-cyclohexylacetamide | 481 mg, 52% | C1(CCCCC1)CC(=O)N | C8H15NO
